US07381719B2
Part A: N-Methyl-6-chloronicotinamidine
Using a method similar to Example 380, Part D, using 2-chloronicotinonitrile (1.00 g, 7.32 mmol), 2.0 M Al(CH3)3 in toluene (11 mL, 22.0 mmol) and methylamine hydrochloride (1.48 g, 22.0 mmol) gives the title compound (0.952 g, 76.7%): MS ES+ 171.8 (M+H)+, MS ES− 168.0 (M−H)−; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 5-95% over 19 min], tR=5.0 min, 97.0% purity.

reactant | 2-chloronicotinonitrile | 7.32 mmol, 1.00 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | Al(CH3)3 | 2.0 M | [Al](C)(C)C
reactant | toluene | 22.0 mmol, 11 mL | C1(=CC=CC=C1)C | C7H8
reactant | methylamine hydrochloride | 22.0 mmol, 1.48 g | Cl.CN
product | N-Methyl-6-chloronicotinamidine | 0.952 g, 76.7% | CNC(C1=CN=C(C=C1)Cl)=N | C7H8ClN3
